US05235099
N-(N'-phenylcarbamoyl)-12-aminoperoxydodecanoic acid
31.6 g (0.1 mol) of N-phenylcarbamoyllaurolactam are dissolved in 50.0 g of methanesulfonic acid (98% strength by weight), 3.6 g (0.2 mol) of water are added and the mixture is heated at 80° C. for 30 minutes. After cooling the reaction mixture to 25° C., 17.0 g (0.25 mol) of hydrogen peroxide (50% strength by weight) are added dropwise such that the internal temperature can be kept between 22 and 25° C. After stirring at 25° C. for 20 minutes, 100 ml of water are added and the precipitated peroxycarboxylic acid is filtered off with suction. The filter cake is washed free of mineral acid with water and dried at 40° C. in a water pump vacuum.

reactant | N-phenylcarbamoyllaurolactam | 0.1 mol, 31.6 g | C1(=CC=CC=C1)NC(=O)N1C(CCCCCCCCCCC1)=O | C19H28N2O2
reactant | water | 0.2 mol, 3.6 g | O | H2O
reactant | hydrogen peroxide | 0.25 mol, 17.0 g | OO | H2O2
reactant | water | 100 ml | O | H2O
solvent | methanesulfonic acid | 50.0 g | CS(=O)(=O)O | CH4O3S
product | N-(N'-phenylcarbamoyl)-12-aminoperoxydodecanoic acid | C1(=CC=CC=C1)NC(=O)NCCCCCCCCCCCC(=O)OO | C19H30N2O4
